US04535183
4-Chloro-3-methoxyphenol methoxymethyl ether (3.1 g, 0.0153 M) in dry ether (3.5 ml) was added dropwise to a solution of phenyllithium (from 0.21 g lithium and 2.4 g bromobanzene) in dry ether (12 ml) under nitrogen and the mixture stirred at room temperature (3 days). A solution of dry dimethylformamide (1.12 g, 0.0153 M) in dry ether (1 ml) was then added dropwise over 15 mins and the mixture stirred at room temperature (1 hr). The reaction mixture was poured into 2 N sulphuric acid (100 ml) and extracted with ethyl acetate. The combined extracts were dried (sodium sulphate) and evaporated. The residue was dissolved in methanol (25 ml), 3 N hydrochloric acid (10 ml) added and the resultant solution stirred at 65° C. for 30 mins. The solvent was removed in vacuo and the residue diluted with water (50 ml) and extracted with ether. The combined extracts were dried (sodium sulphate) and evaporated. The residue was chromatographed on silica (MFC) eluting with chloroform. The fractions were combined and evaporated to give 3-chloro-6-hydroxy-2-methoxybenzaldehyde as an oil which crystallised on standing. (Found: m/e 186.0084. C8H7ClO3 requires M185.0082).

reactant | 4-Chloro-3-methoxyphenol methoxymethyl ether | 0.0153 M, 3.1 g | COCOC1=CC(=C(C=C1)Cl)OC | C9H11ClO3
reactant | phenyllithium | 0.21 g | C1(=CC=CC=C1)[Li]
reactant | dimethylformamide | 0.0153 M, 1.12 g | CN(C=O)C | C3H7NO
reactant | sulphuric acid | 2 N, 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | ether | 3.5 ml | CCOCC | C4H10O
solvent | ether | 12 ml | CCOCC | C4H10O
solvent | ether | 1 ml | CCOCC | C4H10O
product | 3-chloro-6-hydroxy-2-methoxybenzaldehyde | ClC=1C(=C(C=O)C(=CC1)O)OC | C8H7ClO3
